US05258509
1) 4-Nitrobenzyl (5R,6S)-6-((1R)-1-hydroxyethyl)-2-trifluoromethanesulfonyloxy -1-carbapen-2-em-3-carboxylate
Under a nitrogen atmosphere, to a solution of 128 mg (0.368 mmol) of 4-nitrobenzyl (3R,5R,6S)-6-((1R)-1-hydroxylethyl) -2-oxo-1-carbapenam-3-carboxylate in acetonitrile (3 ml) was added 0.065 ml (0.37 mmol) of diisopropylethylamine at -45° C., followed by 0.062 ml (0.37 mmol) of trifluoromethanesulfonic anhydride, and the mixture was stirred for 2 hours at the same temperature. To the reaction mixture was added ethyl acetate (3 ml), and the organic layer was washed with saturated aqueous sodium bicarbonate followed by saturated aqueous sodium chloride. After the extract was dried over anhydrous magnesium sulfate, the solvent was removed. The residue was purified by silica gel column chromatography (elution with ethyl acetate-hexane system) to give 94.6 mg (yield: 53.6%) of the title compound as a viscous oil.

reactant | 4-nitrobenzyl (3R,5R,6S)-6-((1R)-1-hydroxylethyl) -2-oxo-1-carbapenam-3-carboxylate | 0.368 mmol, 128 mg | O[C@H](C)[C@@H]1[C@@H]2N([C@H](C(C2)=O)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C16H16N2O7
reactant | diisopropylethylamine | 0.37 mmol, 0.065 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | trifluoromethanesulfonic anhydride | 0.37 mmol, 0.062 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | ethyl acetate | 3 ml | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
product | 4-Nitrobenzyl (5R,6S)-6-((1R)-1-hydroxyethyl)-2-trifluoromethanesulfonyloxy -1-carbapen-2-em-3-carboxylate | 94.6 mg, yield: 53.6% | O[C@H](C)[C@@H]1[C@@H]2N(C(=C(C2)OS(=O)(=O)C(F)(F)F)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C17H15F3N2O9S
